US08980887B2
N-(2-methoxyethyl)-N-(3-pyridinylmethyl)-2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 12)
According to the method of Example 14, 2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(3-pyridinylmethyl)-2-methoxyethylamine were used as raw materials for synthesis, to obtain white solid powder, yield 74.4%. m.p. 235-237° C., ESI-MS m/z: 484[M+H]+, 1H NMR(DMSO-d6, 400 MHz)δ: 2.58(s, 3H), 3.20(s, 0.3H), 3.26(s, 2.7H), 3.57(t, 2H, J=4.76 Hz), 3.76(t, 2H, J=4.76 Hz), 4.43(s, 0.2H), 4.62(s, 1.8H), 4.74(s, 1.8H), 4.97(s, 0.2H), 7.47-7.48(d, 1H, J=7.00 Hz), 7.61(dd, 1H, J=8.4 Hz, 2.24 Hz), 7.8(s, 1H), 7.87-7.88(m, 1H), 7.91-7.92(d, 1H, J=2.24 Hz), 7.95-7.97(d, 1H, J=8.40 Hz), 8.27-8.29(m, 1H), 8.66-8.68(d, 1H, J=7.00 Hz), 8.75-8.79(m, 2H).

reactant | 2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC=1C=C(C=CC1Cl)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H12Cl2N2O2
reactant | N-(3-pyridinylmethyl)-2-methoxyethylamine | N1=CC(=CC=C1)CNCCOC | C9H14N2O
product | N-(2-methoxyethyl)-N-(3-pyridinylmethyl)-2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 74.4% | Cl.COCCN(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC(=C(C=C2)Cl)Cl)=O)CC=2C=NC=CC2 | InChI=1S/C25H24Cl2N4O2.ClH/c1-17-7-9-31-22(25(29-23(31)12-17)19-5-6-20(26)21(27)13-19)14-24(32)30(10-11-33-2)16-18-4-3-8-28-15-18;/h3-9,12-13,15H,10-11,14,16H2,1-2H3;1H
